US05439917
2-Methoxymethyl-3-methylpyrrolo[2,3-b]pyridine.
2,3-dimethylpyrrolo[2,3-b]pyridine 0,5 g (0.0034 mol) was treated in 7 ml acetic acid with an equimolecular amount of bromine and after 5 min a yellow precipitate was formed. The solid was filtred off and treated with 20 ml methanol. The mixture was refluxed for 30 min. and was then evaporated. The residue was partitioned between methylene chloride and bicarbonate solution. The organic layer was separated dried over Na2SO4 and evaporated. The residue was treated with boiling petroleumether (60-80) which was decantated and allowed to cool. The precipitated product was filtred off affording 0,13 g (22%) as white solid.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | 0.0034 mol, 0,5 g | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | bromine | BrBr | Br2
reactant | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 2-Methoxymethyl-3-methylpyrrolo[2,3-b]pyridine | COCC1=C(C=2C(=NC=CC2)N1)C | C10H12N2O
